US04996230
I. Preparation of 2-(decyloxy)-4-[2-(ethoxycarbonyl)phenoxy]benzenepropanoic acid ethyl ester
To a solution of 490 mg of 2-[3-(decyloxy)-4-(3-hydroxypropyl)phenoxy]benzoic acid ethyl ester in ether were added 1 ml of Jones reagent (chromic acid solution). After stirring for 1 hour, additional ether was added and the solution washed with a sodium bisulfite solution. The organic layer was dried and concentrated in vacuo. To the residue were added ethanol and a few drops of sulfuric acid. The mixture was refluxed overnight, cooled to room temperature, and concentrated in vacuo. Ethyl acetate was added and the organic solution washed with water. The organic layer was dried, concentrated in vacuo, and the residue purified by column chromatography eluting with 5% ethyl acetate in hexane. Combination concentration of the appropriate fractions yielded 110 mg of the desired subtitled intermediate as an oil. MS, IR, NMR.

reactant | 2-[3-(decyloxy)-4-(3-hydroxypropyl)phenoxy]benzoic acid ethyl ester | 490 mg | C(C)OC(C1=C(C=CC=C1)OC1=CC(=C(C=C1)CCCO)OCCCCCCCCCC)=O | C28H40O5
reactant | Jones reagent | 1 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | ether | CCOCC | C4H10O
product | 2-(decyloxy)-4-[2-(ethoxycarbonyl)phenoxy]benzenepropanoic acid ethyl ester | 110 mg | C(C)OC(CCC1=C(C=C(C=C1)OC1=C(C=CC=C1)C(=O)OCC)OCCCCCCCCCC)=O | C30H42O6
